data/polar.json
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[Cl:1][CH2:2][C:3](=[O:4])[CH:5]([H:24])[CH:20]([H:25])[C:6](=[O:7])[CH3:8].[N:9]([H:21])([H:22])[H:23]>>[Cl:1][CH2:2][c:3]1[n:9]([H:23])[c:6]([CH3:8])[cH:20][cH:5]1.[O:4]([H:21])[H:24].[O:7]([H:22])[H:25]", "epd": [["LP-/Sigma+", [9], [3, 9]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 21]], ["Sigma-/LP+", [9, 21], [9]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 24]], ["Sigma-/LP+", [5, 24], [5]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 22]], ["Sigma-/LP+", [9, 22], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 25]], ["Sigma-/LP+", [20, 25], [20]], ["LP-/Pi+", [5], [3, 5]], ["LP-/Pi+", [20], [6, 20]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:10])[C:29]([C:2]#[N:11])=[CH:3][c:35]1[cH:6][cH:20][cH:36][cH:21][cH:7]1.[N:4]1([c:8]2[c:30]([CH3:12])[cH:25][c:18]([CH3:16])[cH:28][c:33]2[CH3:15])[CH:24]=[CH:23][N:5]([c:9]2[c:31]([CH3:13])[cH:26][c:19]([CH3:17])[cH:27][c:32]2[CH3:14])[C:34]1=[CH2:22]>>[C:1](=[N-:10])=[C:29]([C:2]#[N:11])[CH:3]([CH2:22][c:34]1[n+:4](-[c:8]2[c:30]([CH3:12])[cH:25][c:18]([CH3:16])[cH:28][c:33]2[CH3:15])[cH:24][cH:23][n:5]1-[c:9]1[c:31]([CH3:13])[cH:26][c:19]([CH3:17])[cH:27][c:32]1[CH3:14])[c:35]1[cH:6][cH:20][cH:36][cH:21][cH:7]1", "epd": [["LP-/Pi+", [4], [34, 4]], ["Pi-/Sigma+", [22, 34], [22, 3]], ["Pi-/Pi+", [3, 29], [29, 1]], ["Pi-/LP+", [1, 10], [10]]]}
{"reaction_name": "IBX oxidation", "rsmi": "[CH:1]([O:2][H:5])([H:4])[CH3:6].[O:7]=[C:8]([O:9][H:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[I:17](=[O:3])=[O:18]>>[CH:1](=[O:2])[CH3:6].[O:3]([H:4])[H:5].[O:7]=[C:8]([O:9][H:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][c:16]1[I:17]=[O:18]", "epd": [["Sigma-/Pi+", [1, 4], [1, 2]], ["Sigma-/Sigma+", [3, 17], [3, 4]], ["Pi-/LP+", [3, 17], [17]], ["Sigma-/Sigma+", [2, 5], [3, 5]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:4]12[CH2:13][CH2:17][N+:12]([F:3])([CH2:18][CH2:14]1)[CH2:19][CH2:15]2)[Cl:20].[c:2]1([CH:10]=[N+:9]=[N-:16])[cH:7][cH:5][cH:11][cH:6][cH:8]1>>[CH2:1]([N+:4]12[CH2:13][CH2:17][N:12]([CH2:18][CH2:14]1)[CH2:19][CH2:15]2)[Cl:20].[c:2]1([CH:10]([F:3])[N+:9]#[N:16])[cH:7][cH:5][cH:11][cH:6][cH:8]1", "epd": [["LP-/Pi+", [16], [9, 16]], ["Pi-/Sigma+", [10, 9], [10, 3]], ["Sigma-/LP+", [3, 12], [12]]]}
{"reaction_name": "Eschenmoser fragmentation", "rsmi": "[N:1]([H:12])([N:4]=[C:6]([CH:2]1[O:3][CH2:10]1)[CH3:5])[S:7](=[O:8])(=[O:9])[CH3:11]>>[CH:2]#[C:6][CH3:5].[N:1]#[N:4].[O:3]=[CH2:10].[S:7](=[O:8])([O:9][H:12])[CH3:11]", "epd": [["Sigma-/Pi+", [1, 12], [1, 4]], ["Sigma-/Pi+", [2, 3], [2, 6]], ["Sigma-/Pi+", [4, 6], [1, 4]], ["Pi-/Pi+", [4, 6], [2, 6]], ["Sigma-/LP+", [1, 7], [7]], ["Pi-/Sigma+", [7, 9], [9, 12]], ["Sigma-/Pi+", [2, 10], [3, 10]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:4]12[CH2:11][CH2:16][N+:8]([F:3])([CH2:17][CH2:12]1)[CH2:18][CH2:13]2)[Cl:19].[CH:1]1=[CH:5][c:6]2[cH:10][cH:9][cH:20][cH:7][c:14]2[CH:21]1[Na:15]>>[CH2:2]([N+:4]12[CH2:11][CH2:16][N:8]([CH2:17][CH2:12]1)[CH2:18][CH2:13]2)[Cl:19].[CH:1]1=[CH:5][c:6]2[cH:10][cH:9][cH:20][cH:7][c:14]2[CH:21]1[F:3].[Na+:15]", "epd": [["Sigma-/Sigma+", [21, 15], [21, 3]], ["Sigma-/LP+", [3, 8], [8]]]}
{"reaction_name": "Alkene bromination", "rsmi": "[Br:3][Br:4].[CH2:1]=[CH2:2]>>[CH2:1]([CH2:2][Br:4])[Br:3]", "epd": [["Pi-/Sigma+", [1, 2], [1, 3]], ["Sigma-/Sigma+", [3, 4], [2, 4]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:8][C:19](=[O:6])[N:15]=[CH:7][c:5]1[cH:2][cH:9][cH:14][cH:10][cH:3]1)([CH3:16])([CH3:17])[CH3:18].[N:4]([CH3:11])([CH3:12])[CH3:13]>>[C:1]([O:8][C:19]([O-:6])=[N:15][CH:7]([N+:4]([CH3:11])([CH3:12])[CH3:13])[c:5]1[cH:2][cH:9][cH:14][cH:10][cH:3]1)([CH3:16])([CH3:17])[CH3:18]", "epd": [["LP-/Sigma+", [4], [4, 7]], ["Pi-/Pi+", [7, 15], [15, 19]], ["Pi-/LP+", [19, 6], [6]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[S:1]([c:9]1[cH:23][cH:16][cH:11][cH:17][cH:24]1)([O-:10])=[O:20].[c:2]12[c:5]([cH:14][cH:12][cH:21][cH:7]1)-[c:6]1[c:3]([cH:8][cH:22][cH:13][cH:15]1)[N+:19]2=[CH:4][CH3:18]>>[S+:1]([CH:4]([CH3:18])[n:19]1[c:2]2[c:5]([c:6]3[c:3]1[cH:8][cH:22][cH:13][cH:15]3)[cH:14][cH:12][cH:21][cH:7]2)([c:9]1[cH:23][cH:16][cH:11][cH:17][cH:24]1)([O-:10])=[O:20]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [4, 19], [19]]]}
{"reaction_name": "Michael–aldol sequence", "rsmi": "[CH2:1]=[CH:2][C:3](=[O:4])[CH3:5].[CH3:6][C:7](=[O:8])[CH2-:9].[O:10]([H:11])[H:12]>>[CH3:6][C:7](=[O:8])[CH2:9][CH2:1][CH:2]([H:11])[C:3](=[O:4])[CH3:5].[O-:10][H:12]", "epd": [["LP-/Sigma+", [9], [1, 9]], ["Pi-/Sigma+", [1, 2], [2, 11]], ["Sigma-/LP+", [10, 11], [10]]]}
{"reaction_name": "Carbonylation by carbon monoxide addition", "rsmi": "[C-:3]#[O+:4].[CH3:1][Li:2]>>[CH3:1][C-:3]=[O:4].[Li+:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/LP+", [3, 4], [4]]]}
